Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Codeine / Iodine
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y.o w/ known radiation proctitis presents with complaints of 
BRBPR over past few days a/w constipation in the setting of 
taking codeine rectently following rib fractures after fall.  

ROS:

Denies LH, N/V, chest pain, shortness of breath, fevers, 
abdominal pain.

All other ROS negative
 
Past Medical History:
Arthritis
afib
BPH
Cardiomyopathy (non-ischemic)
Reflux
Hypertension
Hypothyroidism
T/L spine OA
decreased testosterone

 
Social History:
___
Family History:
Mother died of ___ dementia
Father died of prostate cancer
 
Physical Exam:
AF and VSS
NAD
Dry MM
___, bradycardic
CTA t/o
Abdomen disetended by soft, non tender, BS present
Rectal exam: scant dry maroon stools in underwear, no visible 
bleeding.  DRE deferred given known LGIB and known active 
proctitis.
No edema
Alert and oriented, NAD
Moves all extremities, independent in ambulation with CGA of 
one.
 
Pertinent Results:
___ 08:25AM   WBC-5.7 RBC-3.66* HGB-11.6* HCT-35.0* MCV-96 
MCH-31.7 MCHC-33.1 RDW-14.9
___ 08:25AM   GLUCOSE-103 UREA N-38* CREAT-1.8* SODIUM-141 
POTASSIUM-4.2 CHLORIDE-104 TOTAL CO2-29 ANION GAP-12
___ 08:25AM   ___ PTT-36.7* ___
 
Brief Hospital Course:
1. BRBPR, likely due to exacerbation of radiation proctitis from 
constipation.
2. Atrial fibrillation, on warfarin
3. HTN

Hemodynamically stable.  HCT stable.  Observed overnight - had 
several bowel movements that were brown.  No overt bleeding 
seen.  

He was discharged home after discussion of an outpatient plan 
with Gastroenterology.
 
Medications on Admission:
Reviewed.

T4, Amiodarone, Norvasc, Wellbutrin, Calcitriol, nexium, 
warfarin.  Will reconcile.  Updated/reconciled list to follow 
(see below - discharge meds are reconciled list)
 
Discharge Medications:
1. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
2. Amiodarone 200 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Rosuvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Amlodipine 10 mg Tablet Sig: One (1) Tablet PO once a day.  
6. Hydralazine 25 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
7. Bupropion HCl 150 mg Tablet Sustained Release Sig: One (1) 
Tablet Sustained Release PO BID (2 times a day).  
8. Nexium 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
9. Coumadin 2 mg Tablet Sig: One (1) Tablet PO once a day: Pls 
take this as instructed by your primary care physician.  Please 
stop this 4 days prior to your GI appointment.  
10. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
11. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO 4x per 
week.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Rectal bleeding

Secondary:
Atrial fibrillation
Hypertension

 
Discharge Condition:
VSS, HCT 31.3, brown stool guaiac positive

 
Discharge Instructions:
You were admitted for rectal bleeding.  This is likely due to 
your chronic radiation proctitis made worse by constipation from 
your tylenol #3.  Your blood counts have been stable.  You have 
not had any significant rectal bleeding here.  You will need to 
follow up with your gastroenterologist Dr. ___ a flexible 
sigmoidoscopy for treatment.  An appointment has been made for 
you for ___ at 11:45AM.  You will need to stop your couamdin 
4 days prior to this appointment.    

We recommend that you stop using Tylenol #3 for your pain.  You 
may use plain tylenol, no more than 4,000 mg a day, for your 
pain.  You may use over the counter colace, senna, milk of 
magnesia, or miralax for any constipation.

If you develop any worsening bleeding, lightedness, dizziness, 
palpitations, shortness of breath, or any other concerning 
symptoms please call your primary care doctor Dr. ___ at 
___ at ___.
 
Followup Instructions:
___